US07981874B2
tert-Butyl 4-[2-(4-ethyl-4-oxido-1,4-azaphosphinan-1-yl)-2-oxoethyl]benzoate.
4-Ethyl-1,4-azaphosphinane 4-oxide hydrochloride (233 mg, 1.27 mmol), [4-(tert-butoxycarbonyl)phenyl]acetic acid (200 mg, 0.847 mmol), EDC (325 mg, 1.69 mmol), HOBT (259 mg, 1.69 mmol), and DIEA (296 μl, 1.69 mmol) were combined in DMF (4 mL) and stirred at room temperature overnight. The solution was diluted with saturated NaHCO3 and extracted with EtOAc (2×). The combined organic layers were washed with brine, dried (MgSO4), and evaporated. Flash chromatography (0-10% MeOH/CH2Cl2) afforded the title compound as a colorless oil. MS: cal'd 366 (MH+), exp 366 (MH+).

reactant | 4-Ethyl-1,4-azaphosphinane 4-oxide hydrochloride | 1.27 mmol, 233 mg | Cl.C(C)P1(CCNCC1)=O
reactant | [4-(tert-butoxycarbonyl)phenyl]acetic acid | 0.847 mmol, 200 mg | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)CC(=O)O | C13H16O4
reactant | EDC | 1.69 mmol, 325 mg
reactant | HOBT | 1.69 mmol, 259 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 1.69 mmol, 296 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | tert-Butyl 4-[2-(4-ethyl-4-oxido-1,4-azaphosphinan-1-yl)-2-oxoethyl]benzoate | C(C)P1(CCN(CC1)C(CC1=CC=C(C(=O)OC(C)(C)C)C=C1)=O)=O | C19H28NO4P
